US04649221
N,N'-Dihydroxy-N,N'-di-tert-butyl-p-xylylenediamine
A suspension of 3.0 g tert-butylhydroxylamine hydrochloride, 5.0 g of anhydrous sodium carbonate and 3.15 g of p-xylylene dibromide in 20 ml of N,N-dimethylformamide is heated at 80° C. under nitrogen for 3 hours. Dilution of the reaction mixture with water followed by crystallization from heptane affords 2.1 g of product as a white solid; m.p. 137°-138° C.

reactant | tert-butylhydroxylamine hydrochloride | 3.0 g | Cl.C(C)(C)(C)NO
reactant | sodium carbonate | 5.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-xylylene dibromide | 3.15 g | C1(=CC=C(C=C1)CBr)CBr | C8H8Br2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N,N'-Dihydroxy-N,N'-di-tert-butyl-p-xylylenediamine | 2.1 g | ON(CC1=CC=C(C=C1)CN(C(C)(C)C)O)C(C)(C)C | C16H28N2O2
